US07745641B2
In a similar manner to Step 1 of Example 227, 4-hydroxy-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone (0.171 g, 0.371 mmol) was dissolved in dichloromethane (3.5 mL), and the solution was treated with triethylamine (0.103 mL, 0.741 mmol) and benzenesulfonyl chloride (0.0570 mL, 0.446 mmol), followed by purification by flash column chromatography (chloroform/methanol=85/15) to obtain 4-benzenesulfonyloxy-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone (0.192 g. yield 86%).

reactant | 4-hydroxy-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone | 0.371 mmol, 0.171 g | OC1=C2CNC(C2=C(C=C1)C=1N(C2=CC=C(C=C2C1)CN1CCCCC1)C(=O)OC(C)(C)C)=O | C27H31N3O4
reactant | triethylamine | 0.741 mmol, 0.103 mL | C(C)N(CC)CC | C6H15N
reactant | benzenesulfonyl chloride | 0.446 mmol, 0.0570 mL | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | dichloromethane | 3.5 mL | ClCCl | CH2Cl2
product | 4-benzenesulfonyloxy-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone | 0.192 g, yield 86% | C1(=CC=CC=C1)S(=O)(=O)OC1=C2CNC(C2=C(C=C1)C=1N(C2=CC=C(C=C2C1)CN1CCCCC1)C(=O)OC(C)(C)C)=O | C33H35N3O6S
